US08183271B2
2-(4-Cyanobenzyl)-heptanedioic acid 7-ethyl ester
A solution of 24.21 ml (173.69 mmol) of triethylamine and 4.96 ml (131.58 mmol) of formic acid in 500 ml of dioxane is added to a solution of 22.5 g (52.63 mmol) of 1-allyl 7-ethyl 2-allyloxycarbonyl-2-(4-cyanobenzyl)-heptanedioate, 970 mg (3.68 mmol) of triphenylphosphine and 240 mg (1.05 mmol) of palladium acetate in 500 ml of dioxane at room temperature. The reaction mixture is then stirred at 100° C. for 2 hours. After conversion is complete, the reaction solution is cooled, and the solvent is removed in vacuo. The residue is taken up in ethyl acetate and water and acidified with 1 N hydrochloric acid, and the organic phase is separated off. The aqueous phase is extracted three times more with ethyl acetate, and the organic phases are then combined, washed with saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solution is concentrated in vacuo. 17.5 g (87% of theory, 80% purity) of a colorless solid are obtained.

reactant | triethylamine | 173.69 mmol, 24.21 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 131.58 mmol, 4.96 ml | C(=O)O | CH2O2
reactant | 1-allyl 7-ethyl 2-allyloxycarbonyl-2-(4-cyanobenzyl)-heptanedioate | 52.63 mmol, 22.5 g | C(C=C)OC(=O)C(C(=O)OCC=C)(CCCCC(=O)OCC)CC1=CC=C(C=C1)C#N | C24H29NO6
reactant | triphenylphosphine | 3.68 mmol, 970 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 500 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 1.05 mmol, 240 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(4-Cyanobenzyl)-heptanedioic acid 7-ethyl ester | C(C)OC(CCCCC(C(=O)O)CC1=CC=C(C=C1)C#N)=O | C17H21NO4
